US08729096B2
N-(4-bromophenyl)-2-(4-ethyl-4-isopropyl-2,5-dioxoimidazolidin-1-yl)acetamide
A mixture of 5-Ethyl-5-(1-methylethyl)-2,4-imidazolidinedione, (CAS #98492-91-2 (50 mg, 0.29 mmol), N-(4-bromophenyl)-2-chloro-acetamide (CAS #2564-02-5) (80 mg, 0.32 mmol), K2CO3 (48 mg, 0.35 mmol) in acetone was stirred at ambient temperature for 18 h. The mixture was extracted with EtOAc, the organic layer was washed with brine, dried over MgSO4, filtered and solvent removed. The crude product was purified by preparative TLC. The title compound was isolated as white solid.

reactant | 5-Ethyl-5-(1-methylethyl)-2,4-imidazolidinedione | C(C)C1(C(NC(N1)=O)=O)C(C)C | C8H14N2O2
reactant | N-(4-bromophenyl)-2-chloro-acetamide | 0.32 mmol, 80 mg | BrC1=CC=C(C=C1)NC(CCl)=O | C8H7BrClNO
reactant | K2CO3 | 0.35 mmol, 48 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-(4-bromophenyl)-2-(4-ethyl-4-isopropyl-2,5-dioxoimidazolidin-1-yl)acetamide | BrC1=CC=C(C=C1)NC(CN1C(NC(C1=O)(C(C)C)CC)=O)=O | C16H20BrN3O3
